US04025637
A mixture of 2-(3-amino-4-hydroxyphenyl)propionitrile (4.86 g.), potassium ethylxanthate (5.3 g.), ethanol (30 ml.) and water (5.0 ml.) was heated under reflux for four hours. The mixture was filtered, diluted with water (15 ml.), acidified with acetic acid and then diluted with more water. The resulting brown precipitate was filtered off and recrystallised from aqueous ethanol to give 2-(2-thioxo-2,3-dihydrobenzoxazol-5-yl) propionitrile, m.p. 173°-6° C. Dry chlorine was passed into a suspension of the thione (8.0 g.) in freshly dried and distilled chloroform (200 ml.). After 20 hours, most of the solid had dissolved and the mixture was filtered. The filtrate was washed with water (100 ml.), 1N sodium hydroxide (50 ml.) and water (3 × 100 ml.) The dried (Na2SO4) organic solution was evaporated to yield 2-[2-chloro-5-benzoxazolyl]propionitrile as a brown oil which was shown to be a single compound by thin layer chromatography. The oil distilled at 128°-134° C./0.3 mm.Hg.

reactant | 2-(3-amino-4-hydroxyphenyl)propionitrile | 4.86 g | NC=1C=C(C=CC1O)C(C#N)C | C9H10N2O
reactant | potassium ethylxanthate | 5.3 g | C(C)OC(=S)[S-].[K+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 5.0 ml | O | H2O
product | 2-(2-thioxo-2,3-dihydrobenzoxazol-5-yl) propionitrile | S=C1OC2=C(N1)C=C(C=C2)C(C#N)C | C10H8N2OS
